US04367238
A mixture of sodium ethoxide prepared from sodium metal (470 mg) and ethanol (20 ml), 2-[2-methoxy-3-(2-fluorophenoxy)phenyl]acetonitrile (5 g) and diethyl carbonate (9.2 g) in toluene (50 ml) was treated in a similar manner to that of Example 10-(4) to give oily ethyl 2-cyano-2-[2-methoxy-3-(2-fluorophenoxy)phenyl]acetate (7 g).

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 470 mg | [Na] | Na
reactant | 2-[2-methoxy-3-(2-fluorophenoxy)phenyl]acetonitrile | 5 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)F)CC#N | C15H12FNO2
reactant | diethyl carbonate | 9.2 g | C(OCC)(OCC)=O | C5H10O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl 2-cyano-2-[2-methoxy-3-(2-fluorophenoxy)phenyl]acetate | 7 g | C(#N)C(C(=O)OCC)C1=C(C(=CC=C1)OC1=C(C=CC=C1)F)OC | C18H16FNO4
